US08314128B2
a. 3-(trans-7-Carbamoyl-3-methoxy-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid ethyl ester
A mixture of trans-7-amino-6-methoxy-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid amide hydrochloride (0.25 g, 0.88 mmol) anhydrous ethanol (0.90 mL), triethylamine (0.14 mL, 1.32 mmol) and acrylic acid ethyl ester (0.14 mL, 1.0 mmol) were heated at 70° C. After 23 h, additional acrylic acid ethyl ester (0.04 mL, 0.3 mmol) was added and heating was continued. Five hours after the addition, the reaction was cooled to room temperature, combined with another run (0.36 mmol scale) and concentrated under vacuum. The title compound (0.61 g) was used without further purification. (m/z): [M+H]− calcd for C19H28N2O4 349.21; found 349.0.

reactant | trans-7-amino-6-methoxy-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid amide hydrochloride | 0.88 mmol, 0.90 mL, 0.25 g | Cl.N[C@H]1[C@@H](CC=2C=CC(=CC2C1(C)C)C(=O)N)OC
reactant | triethylamine | 1.32 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | acrylic acid ethyl ester | 1.0 mmol, 0.14 mL | C(C)OC(C=C)=O | C5H8O2
reactant | acrylic acid ethyl ester | 0.3 mmol, 0.04 mL | C(C)OC(C=C)=O | C5H8O2
product | 3-(trans-7-Carbamoyl-3-methoxy-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid ethyl ester | C(C)OC(CCN[C@@H]1C(C2=CC(=CC=C2C[C@H]1OC)C(N)=O)(C)C)=O | C19H28N2O4
